US07375113B2
To a solution of 2-benzyloxycarbonylamino-2-methyl-propionic acid (1 g) in N,N-dimethylformamide (10 mL) were added 1-hydroxybenzotriazole (0.63 g), 1-ethyl-3-(3-dimethyl-aminopropyl) carbodiimide hydrochloride (1.21 g), triethylamine (1.76 mL) and 28% aqueous ammonia solution (2 mL), and the mixture was stirred at room temperature overnight. The reaction mixture was poured into water, and the resulting mixture was extracted with ethyl acetate. The organic layer was washed with 0.5 mol/L hydrochloric acid, water, 1 mol/L aqueous sodium hydroxide solution, water and brine successively, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure to give 2-benzyloxycarbonylamino-2-methylpropionamide (0.26 g) This material was dissolved in methanol (5 mL). To the solution was added 10% palladium-carbon powder (30 mg), and the mixture was stirred at room temperature under a hydrogen atmosphere for 3 hours. The insoluble material was removed by filtration, and the filtrate was concentrated under reduced pressure to give the title compound (0.11 g).

reactant | 2-benzyloxycarbonylamino-2-methyl-propionic acid | 1 g | C(C1=CC=CC=C1)OC(=O)NC(C(=O)O)(C)C | C12H15NO4
reactant | 1-hydroxybenzotriazole | 0.63 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 1.76 mL | C(C)N(CC)CC | C6H15N
reactant | ammonia | 2 mL | N | H3N
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-benzyloxycarbonylamino-2-methylpropionamide | 0.26 g | C(C1=CC=CC=C1)OC(=O)NC(C(=O)N)(C)C | C12H16N2O3
